US04064150
Methyl (E)-2,7-dimethyl-2,6-octadienoate (δ-substituted product):
Gamma-Alkylation of Senecioic Acid (5) with Geranyl Bromide, Farnesoic Acids, (Method B) -- The copper dienolate from 1 g (0.01 mol) of senecioic acid (5) was formed by initial mixed dienolate generation (Method II) and subsequent addition of 3.89 g (0.02 mol) of cuprous iodide, and 5.0 g (0.025 mol) of geranyl bromide was added as in alkylation B. Isolation by procedure 3 and methylation with diazomethane produced 2.06 g (80%) of a mixture of esters. Using glpc analysis (Col. B, 145°), three major product peaks were found in a ratio of 10:36:54, A (retention time of 4 min.): B (retention time of 6.2 min.): C (retention time of 7.3 min.). Peak A was presumed to be the alpha product, and peaks B and C were identified as the isomeric gamma products by pmr (J. W. K. Burrell et al., J. Chem. Soc., 2144(1966)), after isolation by preparative glpc (Col. D). Methyl (Z,E)-farnesoate (Peak B): pmr (CCl4) δ 5.55 (s,1), 5.1-4.9 (m,2), 3.54 (s,3), 2.58 (t,2), 2.2-1.9 (m,6), 1.82 (d, J=0.5 Hz,3), 1.6 (s,3), and 1.4 (s,6).

reactant | Methyl (Z,E)-farnesoate | C(\C=C(\C)/CC\C=C(/C)\CCC=C(C)C)(=O)OC | C16H26O2
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl (E)-2,7-dimethyl-2,6-octadienoate | C/C(/C(=O)OC)=C\CCC=C(C)C | C11H18O2
